US07323475B2
2-(S)-{[6-(4-Chloro-phenoxy)-4-hydroxy-isoquinoline-3-carbonyl]-amino}-propionic acid
Prepared in analogy to Example A-50 by reacting 6-(4-Chloro-phenoxy)-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester (compound of Example A-60 b) with L-alanine in a microwave reactor for 25 min at 130° C. MS-(−)-ion: M−1=385.1

reactant | 6-(4-Chloro-phenoxy)-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=CC2=CC=C(C=C2C1O)OC1=CC=C(C=C1)Cl | C20H18ClNO4
reactant | L-alanine | N[C@@H](C)C(=O)O | C3H7NO2
product | 2-(S)-{[6-(4-Chloro-phenoxy)-4-hydroxy-isoquinoline-3-carbonyl]-amino}-propionic acid | ClC1=CC=C(OC=2C=C3C(=C(N=CC3=CC2)C(=O)N[C@H](C(=O)O)C)O)C=C1 | C19H15ClN2O5
